US08541421B2
Ethyl 5,6-dimethyl-2-thioxo-1,2-dihydrothieno[2,3-d]pyrimidin-4-ylcarbamate
To a suspension of 4-amino-5,6-dimethylthieno[2,3-d]pyrimidine-2(1H)-thione (211 mg, 1 mmol) in DMF (5 mL) was added Et3N (0.21 mL, 1.5 mmol) and ethyl chloroformate (0.143 mL, 1.5 mmol). The reaction mixture was stirred at room temperature overnight, then diluted with EtOAc, washed with water and brine, dried over Na2SO4, filtered and evaporated. The residue was purified on Biotage SP-1 eluting with EtOAc/hexane to give the title compound (154 mg, 54%). 1H NMR (400 MHz, DMSO-d6) δ1.22 (t, J=7.2 Hz, 3H), 2.38 (s, 3H), 2.39 (s, 3H), 4.25 (q, J=7.2 Hz, 2H), 7.25-7.21 (m, 2H). MS 284 (MH+)

reactant | 4-amino-5,6-dimethylthieno[2,3-d]pyrimidine-2(1H)-thione | 1 mmol, 211 mg | NC=1C2=C(NC(N1)=S)SC(=C2C)C | C8H9N3S2
reactant | Et3N | 1.5 mmol, 0.21 mL | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.5 mmol, 0.143 mL | ClC(=O)OCC | C3H5ClO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 5,6-dimethyl-2-thioxo-1,2-dihydrothieno[2,3-d]pyrimidin-4-ylcarbamate | 154 mg, 54% | CC1=C(SC=2NC(N=C(C21)NC(OCC)=O)=S)C | C11H13N3O2S2
